US04293694
250 ml of a 10% aqueous sodium hydroxide solution was added to 28 g of ethyl 7a,8,9,10,11,11a-hexahydro-4-oxo-4H-pyrido[3,2,1-jk]carbazol-5-carboxylate, followed by heat-refluxing for 2 hours. The reaction system changed from a suspension state to a uniform solution as the reaction proceeded. 200 ml of water was added to the reaction mixture which was then filtered, and the filtrate was rendered acidic with concentrated hydrochloric acid to precipitate light yellow crystals. The crystals were separated by filtration, washed successively with water and a small amount of ethanol, dried and recrystallized from chloroform-hexane (1:1 by volume) to obtain 16 g of 7a,8,9,10,11,11a -hexahydro-4-oxo-4H-pyrido[3,2,1-jk]carbazol-5-carboxylic acid as light yellow amorphous crystals having a melting point of 238°-241° C.

reactant | sodium hydroxide | [OH-].[Na+]
reactant | ethyl 7a,8,9,10,11,11a-hexahydro-4-oxo-4H-pyrido[3,2,1-jk]carbazol-5-carboxylate | 28 g | O=C1C(=CN2C3=C1C=CC=C3C3CCCCC23)C(=O)OCC | C18H19NO3
solvent | water | 200 ml | O | H2O
product | 7a,8,9,10,11,11a -hexahydro-4-oxo-4H-pyrido[3,2,1-jk]carbazol-5-carboxylic acid | 16 g | O=C1C(=CN2C3=C1C=CC=C3C3CCCCC23)C(=O)O | C16H15NO3
